US05298625
B. 4-(Dimethoxyphosphinyl)-3-oxobutanoic acid, methyl ester
A mixture of the title A compound (83.9 g, 0.378 mol), bissilylacetamide (15.23 g, 0.075 mol) and trimethylphosphite (200 g, 1.61 mol) was refluxed (oil bath temp. 125° C.) under argon for 15 hours. TLC, silica gel, 10 methanol/ethyl acetate Rf =0.39, (UV and 4,4'-bis-dimethylaminobenzhydrol/heat). The reaction mixutre was cooled to 70° C., volatile components were distilled at 10 mm pressure, and then the product was kept at 0.5 mm pressure for ten minutes. The product was taken up in 250 mL ethyl acetate and washed with brine (2×50 mL), aqueous sodium bicarbonate (25 mL, vigorous reaction) and brine. The organic phase was dried (magnesium sulfate) and the solvent was removed under vaccum to give 55.79 g of the crude title compound. The product was heated to 100° C. under vaccum (0.4 mm) for five minutes to remove the more volatile impurities. The product was cooled, dissolved in 200 mL ethyl acetate, and treated with charcoal, and filtered through a pad of Celite. The filtrate was evaporated to give 43.01 g (yield 51% uncorrected) of the title compound

reactant | bissilylacetamide | 0.075 mol, 15.23 g | [SiH3]C(C(=O)N)[SiH3] | C2H9NOSi2
reactant | trimethylphosphite | 1.61 mol, 200 g | COP(OC)OC | C3H9O3P
reactant | 4,4'-bis-dimethylaminobenzhydrol | CN(C1=CC=C(C(C2=CC=C(C=C2)N(C)C)O)C=C1)C | C17H22N2O
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
product | 4-(Dimethoxyphosphinyl)-3-oxobutanoic acid, methyl ester | yield 51% | COP(=O)(CC(CC(=O)OC)=O)OC | C7H13O6P
